US08278318B2
Step 7: (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of (5S)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (1.04 g, 0.00412 mol), 4-bromo-2-fluoro-1-iodobenzene (Aldrich, cat #: 283304) (1.85 g, 0.00615 mol), copper(I) iodide (Aldrich, cat #: 215554) (0.122 g, 0.000640 mol), potassium phosphate (2.63 g, 0.0124 mol) and 1,2-ethanediol (0.48 mL, 0.0086 mol) in 1-butanol (3.90 mL) was heated at 100° C. under nitrogen for 2 d. The reaction was quenched with water, and extracted with ether. The organic layers were combined, washed with water, brine, dried over Na2SO4, and filtered. The filtrate was evaporated under reduced pressure. The residue was purified by flash column chromatography on a silica gel column eluting with 0 to 5% methanol in DCM to yield the desired product (950 mg, 54.2%). LC/MS m/e 425.1/427.0 (M+H)+.

reactant | (5S)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 0.00412 mol, 1.04 g | O[C@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O | C14H24N2O2
reactant | 4-bromo-2-fluoro-1-iodobenzene | 0.00615 mol, 1.85 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | potassium phosphate | 0.0124 mol, 2.63 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-ethanediol | 0.0086 mol, 0.48 mL | C(CO)O | C2H6O2
solvent | 1-butanol | 3.90 mL | C(CCC)O | C4H10O
catalyst | copper(I) iodide | 0.000640 mol, 0.122 g | [Cu]I
product | (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 950 mg, 54.2% | BrC1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)F | C20H26BrFN2O2
